US08957203B2
Step 2: Preparation of 1-Fluoro-4-methoxyisoquinoline
To a solution of 1-chloro-4-methoxyisoquinolin (2.5 g, 12.91 mmol) in DMSO was added cesium fluoride (4.01 g, 25.82 mmol) at room temperature. The reaction vessel (Pressure tube) was sealed and heated at 145° C. for 18 h. The reaction mass was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to get desired compound (700 mg, 62%) as a white solid. 1H NMR (400 MHz, CD3OD): δ ppm 8.10 (m, 1H), 8.08 (m, 1H), 7.78-7.75 (m, 1H), 7.69-7.65 (m, 1H), 7.49 (m, 1H), 4.04 (s, 3H); 19F NMR: δ ppm −78.66 (1F); MS: MS m/z 178.1 (M++1).

reactant | 1-chloro-4-methoxyisoquinolin | 12.91 mmol, 2.5 g | ClC1=NC=C(C2=CC=CC=C12)OC | C10H8ClNO
reactant | cesium fluoride | 25.82 mmol, 4.01 g | [F-].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-Fluoro-4-methoxyisoquinoline | 700 mg, 62% | FC1=NC=C(C2=CC=CC=C12)OC | C10H8FNO
